US07253165B2
Synthesis of (R)-1-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-3-(4-pyrimidin-2-yl-piperazin-1-yl)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine in dimethylformamide and ethanol and 2-piperazin-1-yl-pyrimidine in ethanol essentially as described above in Example 102. Purity by LC/MS=100%, [M+H]+=433.

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | 2-piperazin-1-yl-pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-3-(4-pyrimidin-2-yl-piperazin-1-yl)-propan-2-ol | O1N=C(C=2C1=NC=CC2)C=2C=C(OC[C@@H](CN1CCN(CC1)C1=NC=CC=N1)O)C=CC2 | C23H24N6O3
